US08017630B2
5-(1-H-Indol-3-yl)pentanoic acid amide
A solution of 5-(1H-indol-3-yl)pentanoic acid cyanomethyl ester (4.5 g, 17.5 mmol) in tetrahydrofuran (110 ml) was added to a 25 percent strength ammonia solution (80 ml) and the mixture was stirred at room temperature for 3 d. Working up of the mixture was carried out by phase separation and extraction of the aqueous phase with tetrahydrofuran (2×30 ml). The organic phases were combined, washed with saturated sodium chloride solution (50 ml), dried and concentrated. The residue was washed with water (2×10 ml) and ether (2×10 ml) and dried. The product remained as a colourless solid in a yield of 68% (2.56 g) with an m.p. of 134-139° C.

reactant | 5-(1H-indol-3-yl)pentanoic acid cyanomethyl ester | 17.5 mmol, 4.5 g | C(#N)COC(CCCCC1=CNC2=CC=CC=C12)=O | C15H16N2O2
reactant | ammonia | 80 ml | N | H3N
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
product | 5-(1-H-Indol-3-yl)pentanoic acid amide | yield of 68% | N1C=C(C2=CC=CC=C12)CCCCC(=O)N | C13H16N2O
